US08431596B2
Cyclopropanecarboxylic acid (5-phenylsulfanyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide (WW-111)
A microwave tube was charged with sodium hydride (0.036 g, 0.889 mmol) in anhydrous well-degassed dioxane (1 mL). Thiophenol (0.091 mL, 0.889 mmol) was added dropwise and the mixture allowed to stir for 5 min. Cyclopropanecarboxylic acid (5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide (0.05 g, 0.178 mmol) was added and the mixture was heated to 160° C. for 20 min in a microwave. The crude product was purified by preparatory HPLC. LCMS method: 2, RT: 4.32 min, MI: 311 [M+1]. NMR (1H, DMSO, 300 MHz): 11.17 (s, 1H), 7.70 (m, 2H), 7.57 (m, 3H), 7.49 (d, 2H), 6.28 (t, 1H), 2.03 (brs, 1H), 0.83 (d, 4H)

reactant | sodium hydride | 0.889 mmol, 0.036 g | [H-].[Na+]
reactant | Thiophenol | 0.889 mmol, 0.091 mL | C1(=CC=CC=C1)S | C6H6S
reactant | Cyclopropanecarboxylic acid (5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide | 0.178 mmol, 0.05 g | BrC1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C10H9BrN4O
product | Cyclopropanecarboxylic acid (5-phenylsulfanyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide | C1(=CC=CC=C1)SC1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C16H14N4OS
